US06566367B2
Reflux N-(2-nitro-4-trifluoromethylsulfonyl-phenyl)-acetamide (600 mg) for 40 minutes in concentrated HCl (15 mL) and water (5 mL). Cool the mixture to room temperature and collect the precipitate obtain 2-nitro-4-trifluoromethylsulfonyl-phenylamine.

reactant | N-(2-nitro-4-trifluoromethylsulfonyl-phenyl)-acetamide | 600 mg | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)NC(C)=O | C9H7F3N2O5S
solvent | HCl | 15 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 2-nitro-4-trifluoromethylsulfonyl-phenylamine | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)N | C7H5F3N2O4S
